US04080473
A solution of 3,5-dichlorophenyl isocyanate (71.5 g.) in acetone (250 cc.), and triethylamine (38.4 g.) are added successively, whilst stirring, to a solution of 3-isopropyl-hydantoin (56.8 g.) in acetone (250 cc.). The temperature of the reaction mixture rises gradually from 25° C to 50° C over the course of 20 minutes and then again drops, whilst a copious precipitate forms. The reaction mixture is stirred for a further 5 hours at a temperature of about 20° C. The precipitate is filtered off, washed with acetone (2 × 50 cc.) and then dried under reduced pressure. 1-(3,5-Dichlorophenyl)-carbamoyl-3-isopropyl-hydantoin (100 g.) melting at 200° C, is thus obtained.

reactant | 3,5-dichlorophenyl isocyanate | 71.5 g | ClC=1C=C(C=C(C1)Cl)N=C=O | C7H3Cl2NO
reactant | triethylamine | 38.4 g | C(C)N(CC)CC | C6H15N
reactant | 3-isopropyl-hydantoin | 56.8 g | C(C)(C)N1C(NCC1=O)=O | C6H10N2O2
reactant | acetone | 250 cc | CC(=O)C | C3H6O
reactant | acetone | 250 cc | CC(=O)C | C3H6O
product | 1-(3,5-Dichlorophenyl)-carbamoyl-3-isopropyl-hydantoin | 100 g | ClC=1C=C(C=C(C1)Cl)N1C(=O)N(C(=O)C1C(N)=O)C(C)C | C13H13Cl2N3O3
